US04092150
This compound was prepared in the manner of Example XVII, substituting 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile and aqueous 40% methylamine for 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile and isopropylamine. The reaction product was recrystallized from methylcyclohexane to give 4-chloro-2-isopropylamino-6-methylamino-5-pyrimidinecarbonitrile; mp, 170°-173°.

reactant | methylamine | CN | CH5N
reactant | 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NCC | C7H6Cl2N4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-chloro-2-isopropylamino-6-methylamino-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)NC)NC(C)C | C9H12ClN5
